US05011849
6.3 g (13.3 mmol) of t-butyl [2-[5-(3-iodophenyl)-4-thiazolecarboxamido]ethyl]carbamate were dissolved in 70 ml of methylene chloride, treated with 5.1 ml of trifluoroacetic acid and stirred under reflux for 2 hours. Subsequently, the mixture was concentrated under reduced pressure. The residue was dissolved in 50 ml of methanol and treated with 5.2 ml of 2.7N ethanolic hydrochloric acid, whereby 4.8 g (88%) of N-(2-aminoethyl)-5-(3-iodophenyl)-4-thiazolecarboxamide hydrochloride were obtained as white crystals, melting point 272°-273°.

reactant | t-butyl [2-[5-(3-iodophenyl)-4-thiazolecarboxamido]ethyl]carbamate | 13.3 mmol, 6.3 g | IC=1C=C(C=CC1)C1=C(N=CS1)C(=O)NCCNC(OC(C)(C)C)=O | C17H20IN3O3S
reactant | trifluoroacetic acid | 5.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-5-(3-iodophenyl)-4-thiazolecarboxamide hydrochloride | 4.8 g, 88% | Cl.NCCNC(=O)C=1N=CSC1C1=CC(=CC=C1)I | InChI=1S/C12H12IN3OS.ClH/c13-9-3-1-2-8(6-9)11-10(16-7-18-11)12(17)15-5-4-14;/h1-3,6-7H,4-5,14H2,(H,15,17);1H
